US07112598B2
(a) 2-(N-tert-Butoxycarbonyl-N-isopropylamino)ethanol (Reference Compound No. 21-1a)
A solution of dibutyl dicarbonate (25.0 g, 116 mmol) in tetrahydrofuran (40 ml) was added to a solution of 2-(isopropylamino)ethanol (10.0 g, 96.9 mmol) in tetrahydrofuran (60 ml) under ice-cooling. The mixture was stirred at room temperature for 3.5 hours, then a 10% aqueous citric acid solution (500 ml) was added to the reaction mixture, and the whole was extracted with ethyl acetate (500 ml). The organic layer was washed with saturated brine (500 ml) and dehydrated with anhydrous magnesium sulfate. Ethyl acetate was evaporated under reduced pressure, and the obtained oily matter was purified by silica gel column chromatography (mobile phase: hexane/ethyl acetate=1/1) to give 24.0 g (quantitatively) of the target compound.

reactant | dibutyl dicarbonate | 116 mmol, 25.0 g | C(=O)(OCCCC)OC(=O)OCCCC | C10H18O5
reactant | 2-(isopropylamino)ethanol | 96.9 mmol, 10.0 g | C(C)(C)NCCO | C5H13NO
reactant | citric acid | 500 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-(N-tert-Butoxycarbonyl-N-isopropylamino)ethanol | C(C)(C)(C)OC(=O)N(C(C)C)CCO | C10H21NO3
